US07291635B2
A solution of the title F compound, ((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester (156 mg, 0.265 mmol) in CH2Cl2 (1 mL) is treated with TFA (1 mL). After 30 min, the solvent is evaporated under stream of nitrogen. The residue is partitioned between EtOAc and saturated aqueous NaHCO3. The organic solution is washed with brine, dried over anhydrous MgSO4 and concentrated to yield (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide as a white solid: [M+1]+=489.

reactant | ((S)-2-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-1-pentylcarbamoyl-ethyl)-carbamic acid t-butyl ester | 0.265 mmol, 156 mg | C(C)(C)(C)OC(N[C@@H](CC1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)C(NCCCCC)=O)=O | C29H40N4O7S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-3-{3-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-pentyl-propionamide | N[C@H](C(=O)NCCCCC)CC1=CC(=CC=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O | C24H32N4O5S
